US07323567B2
a) tert-Butyl [3-hydroxypropyl][2-(3,4-dimethoxyphenyl)ethyl]carbamate
2-(3,4-Dimethoxyphenyl)ethylamine (10.0 mL, 59.3 mmol) was added to an ice-cold solution of methyl acrylate (5.40 mL, 59.3 mmol) in MeOH (60 mL). The reaction mixture was stirred at room temperature for 4 h then was concentrated under reduced pressure. Et3N (10.0 mL, 71.7 mmol) and (BOC)2O (14.3 g, 65.5 mmol) were added to a solution of the residue in THF (60 mL). The reaction mixture was stirred at room temperature for 1 h then was concentrated under reduced pressure. The residue was taken in Et2O and the resulting solution was successively washed with aqueous 10% citric acid solution (2×), water, aqueous saturated NaHCO3 solution, water (2×) and brine, dried (MgSO4), filtered and concentrated under reduced pressure. LiAlH4 (2.25 g, 59.3 mmol) was added to an ice-cold solution of the residue in Et2O (300 mL). The reaction mixture was stirred at 0° C. for 3 h, 1 h at room temperature and then cooled to 0° C. Water (2.8 mL), 10% aqueous NaOH solution (2.8 mL) and water (8.5 mL) were successively and carefully added to the mixture. The resulting suspension was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (40-63μ silica gel; EtOAc:hexane, 3:2) to give the title compound (15.9 g, 79% yield).

reactant | 2-(3,4-Dimethoxyphenyl)ethylamine | 59.3 mmol, 10.0 mL | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | methyl acrylate | 59.3 mmol, 5.40 mL | C(C=C)(=O)OC | C4H6O2
reactant | Et3N | 71.7 mmol, 10.0 mL | CCN(CC)CC | C6H15N
reactant | (BOC)2O | 65.5 mmol, 14.3 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | LiAlH4 | 59.3 mmol, 2.25 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2.8 mL | [OH-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et2O | 300 mL | CCOCC | C4H10O
solvent | water | 8.5 mL | O | H2O
solvent | Water | 2.8 mL | O | H2O
product | tert-Butyl [3-hydroxypropyl][2-(3,4-dimethoxyphenyl)ethyl]carbamate | 15.9 g, 79% yield | OCCCN(C(OC(C)(C)C)=O)CCC1=CC(=C(C=C1)OC)OC | C18H29NO5
